US07138400B2
Cyclobutyl-sulfamic acid 2-hydroxy-phenyl ester was prepared by adding a solution of catechol sulphate (1.32 g, 7.7 mmol) in DCM (2 ml) to a stirred solution of cyclobutylamine (600 μl, 7.0 mmol) and TEA (1.07 ml, 7.7 mmol) in DMF at 0° C., and stirring for 3 hours at this temperature. The mixture was quenched with 1M HCl (50 ml) and extracted with diethyl ether. The organic extract was washed with water, brine, dried and concentrated to dryness. Quantitative yield.

reactant | catechol sulphate | 7.7 mmol, 1.32 g | S(=O)(=O)(O)OC=1C(O)=CC=CC1 | C6H6O5S
reactant | cyclobutylamine | 7.0 mmol, 600 μl | C1(CCC1)N | C4H9N
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | Cyclobutyl-sulfamic acid 2-hydroxy-phenyl ester | Quantitative yield | OC1=C(C=CC=C1)OS(NC1CCC1)(=O)=O | C10H13NO4S
